US07723330B2
Step C: Preparation of N-(2-chloro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-5-methylphenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide:
Prepared from 1-((4-fluorophenyl)carbamoyl)cyclopropanecarboxylic acid (0.1796 g, 0.4989 mmol (prepared from cyclopropane-1,1-dicarboxylic acid and 4-fluoroaniline using the methods of WO 2005/030140 and by Shih and Rankin, Synth. Comm. 1996, 26(4), 833-836) and 4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-2-chloro-5-methylbenzenamine (0.170 g, 0.1996 mmol) according to the procedure of Example 13, Step C. Purified by preparative TLC (0.5 mm) eluting with EtOAc. The product (23 mg, 17%) was obtained as an orange solid. LRMS (esi pos) m/e 614 (M+1).

reactant | 1-((4-fluorophenyl)carbamoyl)cyclopropanecarboxylic acid | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | cyclopropane-1,1-dicarboxylic acid | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-2-chloro-5-methylbenzenamine | 0.1996 mmol, 0.170 g | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=CC(=C(C=C3C)N)Cl)C)C=C1 | C22H21ClN4O2
product | N-(2-chloro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-5-methylphenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 23 mg, 17% | ClC1=C(C=C(C(=C1)OC1=C2C(=NC=C1)N(N=C2C)CC2=CC=C(C=C2)OC)C)N(C(=O)C2(CC2)C(=O)N)C2=CC=C(C=C2)F | C33H29ClFN5O4
